US07846925B2
0.97 g of 2-(N-methylamino)-phenol were dissolved in 50 ml acetone, followed by the addition of 2 g of K2CO3 dissolved in water. To this suspension was added slowly a solution of 2.66 g of dibromoethane in acetone. The reaction mixture was stirred for 22 hours under reflux. Acetone was evaporated and 200 ml of EtOAc were added and the organic layer was washed 3× with 0.1N HCl and 3× with brine. The remaining organic layer was dried over MgSO4 and filtrated. EtOAc was removed under reduced pressure affording 1 g of pure 4-methyl-3,4-dihydro-2H-benzo[1,4]oxazine.

reactant | 2-(N-methylamino)-phenol | 0.97 g | CNC1=C(C=CC=C1)O | C7H9NO
reactant | K2CO3 | 2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dibromoethane | 2.66 g | BrC(C)Br | C2H4Br2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-methyl-3,4-dihydro-2H-benzo[1,4]oxazine | 1 g | CN1CCOC2=C1C=CC=C2 | C9H11NO
